US05643958
(2) Preparation of Methyl 4-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-3-tert-butoxycarbonyl-4-hydroxy-3-butenoate
36 mg of methyl (3S,4S)-4-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-3-tert-butoxycarbonyl-4-hydroxybutanoate was dissolved in 2 ml of chloroform, and 42 mg of a Dess-Martin reagent (periodenane) was added thereto, followed by stirring at room temperature for 1 hour. The reaction solution was poured into a mixed solution of a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium thiosulfate aqueous solution and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel thin layer chromatography (Kieselgel™60F254, Art™5744; hexane/ethyl acetate=3/2) to obtain 14.7 mg (yield: 41%) of the above-identified compound as colorless oily substance.

reactant | methyl (3S,4S)-4-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-3-tert-butoxycarbonyl-4-hydroxybutanoate | 36 mg | O1C(=NC2=C1C=CC=C2)/C=C/C[C@@H]([C@@H](C)N(C(=O)[C@H]([C@H](CC(=O)OC)C(=O)OC(C)(C)C)O)CC2=CC1=CC=CC=C1C=C2)C2=CC1=C(C=C2)OCO1 | C42H44N2O9
reactant | Dess-Martin reagent | 42 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-[N-{(1R,2R,4E)-5-(2-benzoxazolyl)-1-methyl-2-(3,4-methylenedioxyphenyl)-4-pentenyl}-N-(2-naphthylmethyl)carbamoyl]-3-tert-butoxycarbonyl-4-hydroxy-3-butenoate | 14.7 mg, yield: 41% | O1C(=NC2=C1C=CC=C2)/C=C/C[C@@H]([C@@H](C)N(C(=O)C(=C(CC(=O)OC)C(=O)OC(C)(C)C)O)CC2=CC1=CC=CC=C1C=C2)C2=CC1=C(C=C2)OCO1 | C42H42N2O9
